US09315491B2
1-(2-Amino-phenyl)-3-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea
A mixture of di-imidazol-1-yl-methanethione (0.5 g, 1.50 eq.), imidazole (0.03 g, 0.3 eq.) and CH3CN (7 ml) was added dropwise to 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (0.5 g, 1.0 eq.) in CH2Cl2 (5 ml) at 0° C. When S.M. is disappear in TLC, dropping benzene-1,2-diamine (0.37 g, 3.0 eq) to the solution for 3 hrs at 50° C. The solvent was removed in vacuo. The resulting solution was crystallized in a EA solution, and filtered to given a light yellow solid, which was then dried in vacuo to give of a product (0.53 g, 70.18%).

reactant | di-imidazol-1-yl-methanethione | 0.5 g, 1.50 eq. | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 0.03 g, 0.3 eq. | N1C=NC=C1 | C3H4N2
reactant | 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 0.5 g, 1.0 eq. | COC=1C(=NC(=NC1)C1=CC=C(C=C1)N)N1CCOCC1 | C15H18N4O2
reactant | benzene-1,2-diamine | 0.37 g, 3.0 eq | C=1(C(=CC=CC1)N)N | C6H8N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 7 ml | CC#N | C2H3N
product | 1-(2-Amino-phenyl)-3-[4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-thiourea | 0.53 g, 70.18% | NC1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NC=C(C(=N1)N1CCOCC1)OC | C22H24N6O2S
